US06723338B1
Liposome-encapsulated vincristine (Vincristine Sulfate Liposome Injection) was prepared using a six vial kit. Vials 1 and 2 contained a vincristine sulfate solution (1 mg/mL Vincasar PFS® SP Pharmaceuticals LLC, Albuqueque, N.Mex.) in buffer comprising mannitol and sodium acetate, pH 4.5-4.7, vial 3 contained empty liposomes (100 mg/mL Sphingomyelin/Cholesterol liposomes, at a ratio of between about 60/40 to 50/50, or more preferably 55/45 mol %/mol %) in buffer comprising 300 mM citrate at pH 4.0, vials 4 and 5 contained an alkaline phosphate buffer (14.2 mg/mL dibasic sodium phosphate hepta hydrate), and vial 6 was an empty, sterile vial. The foregoing empty liposomes were prepared using thin film hydration and standard extrusion techniques, as described in U.S. Pat. No. 5,741,516.

reactant | vincristine sulfate | CC[C@@]1(C[C@@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C=O)C(=O)OC)O.OS(=O)(=O)O
reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | citrate | 300 mM | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | phosphate | P(=O)([O-])([O-])[O-]
product | vincristine | CC[C@@]1(C[C@@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C=O)C(=O)OC)O | C46H56N4O10
